US04910190
a. 4-Aminocarbonylphenoxyacetic acid methylester
A mixture of p-hydroxybenzamide (3.43 g), methyl bromoacetate (2.37 ml) and K2CO3 (3.45 g) was stirred for 12 hr in 25 ml of DMF. The reaction mixture was diluted with water (150 ml); the solid was filtered, washed with water, and air dried. Crystallization from ethanol gave 3.3 g (63%) of the title compound as white crystals.

reactant | p-hydroxybenzamide | 3.43 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | methyl bromoacetate | 2.37 ml | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | 3.45 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | 4-Aminocarbonylphenoxyacetic acid methylester | 3.3 g, 63% | COC(COC1=CC=C(C=C1)C(=O)N)=O | C10H11NO4
